US04401765
(b) Preparation of Thyroxine-Catalase Particle Reagent
30 mg of N-(tert-butoxy)-L-thyroxine-catalase conjugate (10 mL of 3.0 mg/mL solution in 10 mM potassium phosphate buffer, pH 7) is attached to the latex polymer particles prepared according to Example 1, particle size 0.069 μm, following the procedure of Example 7 except that the reaction is performed at 40° C. in the absence of NaCl.

reactant | N-(tert-butoxy)-L-thyroxine | 30 mg | C(C)(C)(C)ON[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C19H19I4NO5
reactant | NaCl | [Na+].[Cl-]
solvent | potassium phosphate | 10 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | Thyroxine | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
